US07259266B2
The ethyl 6-bromo-8-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylate was prepared from 5-bromo-3-chloro-2-hydroxybenzaldehyde in an analogous manner to step 2, preparation of ethyl 8-chloro-6-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate.

reactant | 5-bromo-3-chloro-2-hydroxybenzaldehyde | BrC=1C=C(C(=C(C=O)C1)O)Cl | C7H4BrClO2
reactant | ethyl 8-chloro-6-iodo-2-(trifluoromethyl)-2H-chromene-3-carboxylate | ClC=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)I | C13H9ClF3IO3
product | ethyl 6-bromo-8-chloro-2-(trifluoromethyl)-2H-chromene-3-carboxylate | BrC=1C=C2C=C(C(OC2=C(C1)Cl)C(F)(F)F)C(=O)OCC | C13H9BrClF3O3
